US06043323
a) Preparation of 2,2-bis[p-(2-glycidyloxyhexoxy)phenyl]propane (according to EP-A 22 073)
With stirring, 100.2 g (1 mol) of butyl oxirane, 114 g (0.5 mol) of bisphenol A and 2.14 g of benzyltrimethylammonium bromide are heated to 110° C. When the exothermic reaction has subsided (rise in temperature to 115° C.), the reaction is further stirred at 110° C. until the epoxy value is less than 0.1 eq/kg (16 h). 85.52 g (0.2 mol) of the resultant reaction product are reacted with 296 g (3.2 mol) of epichlorohydrin and 1.32 g of tetramethylammonium bromide according to the method described in EP-A 22 073. After addition of 33.6 g (0.42 mol) of 50% aqueous sodium hydroxide and removal of the water under vacuum, the product is isolated and dried.

reactant | butyl oxirane | 1 mol, 100.2 g | C(CCC)C1OC1 | C6H12O
reactant | bisphenol A | 0.5 mol, 114 g | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | epichlorohydrin | 3.2 mol, 296 g | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.42 mol, 33.6 g | [OH-].[Na+]
catalyst | benzyltrimethylammonium bromide | 2.14 g | [Br-].C(C1=CC=CC=C1)[N+](C)(C)C
catalyst | tetramethylammonium bromide | 1.32 g | [Br-].C[N+](C)(C)C
solvent | water | O | H2O
product | 2,2-bis[p-(2-glycidyloxyhexoxy)phenyl]propane | C(C1CO1)OC(COC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)OCC(CCCC)OCC1CO1)CCCC | C33H48O6
